US08975254B2
N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-5-(1-methyl-1H-pyrazol-4-yl)isoxazole-3-carboxamide
5-(1-methyl-1H-pyrazol-4-yl)isoxazole-3-carboxylic acid (57.9 mg, 0.3 mmol), HOBt (46 mg, 0.340 mmol) and PS-carbodiimide (364 mg), DCM (4 ml) and DMF (0.4 ml) were mixed in a glass vial. The mixture was shaken for 10 min. 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (49 mg, 0.20 mmol) was added and the mixture was stirred for 24 h. The solids were filtered off. PS-Trisamine (333 mg, 1.0 mmol) was added to the filtrate. The mixture was shaken for 4 h and filtered. The filtrate was concentrated and purified by flash chromatography (gradient of DCM:MeOH) to give 16 mg of the title compound. 1H-NMR (400 MHz; d6-DMSO): 3.70 δ (m, 2H), 3.91 (s, 3H), 4.38 (m, 2H), 6.89 (m, 1H), 6.97 (d, 1H), 7.85 (m, 1H), 7.94-8.00 (m, 3H), 8.10 (d, 1H), 8.36 (s, 1H), 8.86-9.13 (m, 1H).

reactant | 5-(1-methyl-1H-pyrazol-4-yl)isoxazole-3-carboxylic acid | 0.3 mmol, 57.9 mg | CN1N=CC(=C1)C1=CC(=NO1)C(=O)O | C8H7N3O3
reactant | HOBt | 0.340 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | carbodiimide | 364 mg | N=C=N | CH2N2
reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.20 mmol, 49 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C12H11ClN4
reactant | Trisamine | 1.0 mmol, 333 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-5-(1-methyl-1H-pyrazol-4-yl)isoxazole-3-carboxamide | 16 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C1=NOC(=C1)C=1C=NN(C1)C | C20H16ClN7O2
